US07030118B2
A) (±)-3-Benzyl-2-{1-[(3-tert-butoxycarbonylamino-propyl)-(4-methyl-benzoyl)-amino]-propyl}-4-oxo-3,4-dihydro-pyrrolo[2,1-f][1,2,4]triazine-5-carboxylic acid
A mixture of lithium hydroxide (2 N, 0.122 mL, 0.24 mmol) and 3-benzyl-2-{1-[(3-tert-butoxycarbonylamino-propyl)-(4-methyl-benzoyl)-amino]-propyl}-4-oxo-3,4-dihydro-pyrrolo[2,1-f][1,2,4]triazine-5-carboxylic acid methyl ester, (Example 20 I, 0.003 g, 0.0049 mmol) in MeOH/THF (1:1, 0.20 mL) at 0° C. was stirred for 4 h. The reaction mixture was quenched with 1 N HCl (5 mL), extracted with EtOAc (3×10 ml), the combined organic extracts dried (Na2SO4), filtered and concentrated in vacuo to give the crude product as a solid. This crude product (0.0029 g, 60%) was used without further purification: MS (ESI+) 602 (M++H).

reactant | lithium hydroxide | 0.24 mmol, 2 N, 0.122 mL | [OH-].[Li+]
reactant | 3-benzyl-2-{1-[(3-tert-butoxycarbonylamino-propyl)-(4-methyl-benzoyl)-amino]-propyl}-4-oxo-3,4-dihydro-pyrrolo[2,1-f][1,2,4]triazine-5-carboxylic acid methyl ester | COC(=O)C=1C=CN2N=C(N(C(C21)=O)CC2=CC=CC=C2)C(CC)N(C(C2=CC=C(C=C2)C)=O)CCCNC(=O)OC(C)(C)C | C34H41N5O6
solvent | MeOH THF | 0.20 mL | CO.C1CCOC1
product | (±)-3-Benzyl-2-{1-[(3-tert-butoxycarbonylamino-propyl)-(4-methyl-benzoyl)-amino]-propyl}-4-oxo-3,4-dihydro-pyrrolo[2,1-f][1,2,4]triazine-5-carboxylic acid | C(C1=CC=CC=C1)N1C(=NN2C(C1=O)=C(C=C2)C(=O)O)C(CC)N(C(C2=CC=C(C=C2)C)=O)CCCNC(=O)OC(C)(C)C | C33H39N5O6
